US05328911
(1) 2-Mercapto-7-methyl-3H-imidazo[4,5-b]pyridine
5 g of potassium hydroxide dissolved in 30 ml of ethanol was dropwise added at 20° C. or below to a solution of 15 g of 2,3-diamino-4-methylpyridine in 15 ml of carbon disulfide and 60 ml of methanol, and the mixture was refluxed for 2 hr. Water and 7 ml of concentrated hydrochloric acid were added thereto, and acetic acid was then added thereto to weakly acidify the mixture. The precipitated solid was recovered by filtration. The solid was washed twice with a small amount of methanol and then dried to prepare 12.3 g of 2-mercapto-7-methyl-3H-imidazo[4,5-b]pyridine as a clayish solid.

reactant | potassium hydroxide | 5 g | [OH-].[K+]
reactant | 2,3-diamino-4-methylpyridine | 15 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | Water | O | H2O
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | carbon disulfide | 15 ml | C(=S)=S | CS2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | methanol | 60 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Mercapto-7-methyl-3H-imidazo[4,5-b]pyridine | SC1=NC=2C(=NC=CC2C)N1 | C7H7N3S
